US03996233
d. 7-(Butylamino)-3-ethyl-2,5-dimethyl-3H-imidazo[4,5-b]pyridine-6-carboxylic acid, ethyl ester, hydrate (1:1)
The following additional compounds are prepared by the procedure of Example 2: 7-butylamino-5-methyl-3H-imidazo[4,5-b]pyridine-6-carboxylic acid, ethyl ester, m.p. 120°-122°, and 7-butylamino-2,5-dimethyl-3H-imidazo[4,5-b]-pyridine-6-carboxylic acid ethyl ester, m.p. 148°-149°.

reactant | 7-butylamino-5-methyl-3H-imidazo[4,5-b]pyridine-6-carboxylic acid, ethyl ester | C(CCC)NC1=C2C(=NC(=C1C(=O)OCC)C)NC=N2 | C14H20N4O2
reactant | 7-butylamino-2,5-dimethyl-3H-imidazo[4,5-b]-pyridine-6-carboxylic acid ethyl ester | C(C)OC(=O)C=1C(=C2C(=NC1C)NC(=N2)C)NCCCC | C15H22N4O2
product | 7-(Butylamino)-3-ethyl-2,5-dimethyl-3H-imidazo[4,5-b]pyridine-6-carboxylic acid, ethyl ester, hydrate | O.C(CCC)NC1=C2C(=NC(=C1C(=O)OCC)C)N(C(=N2)C)CC | InChI=1S/C17H26N4O2.H2O/c1-6-9-10-18-14-13(17(22)23-8-3)11(4)19-16-15(14)20-12(5)21(16)7-2;/h6-10H2,1-5H3,(H,18,19);1H2
